US07211587B2
N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-(1,3-thiazol-2-yl)urea hydrochloride
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline (12 g) was dissolved in chloroform (350 ml) and triethylamine (50 ml) to prepare a solution. A solution of triphosgene (12 g) in chloroform was then added to the solution, and the mixture was stirred at room temperature for 30 min. Next, 2-aminothiazole (4.77 g) was added thereto, and the mixture was further stirred at room temperature overnight. Iced water was added to the reaction solution, and the mixture was extracted with chloroform. The organic layer was washed with water and saturated brine and was then dried over anhydrous magnesium sulfate. The dried organic layer was filtered and was then concentrated, and ether was added to the residue for crystallization, followed by collection of the resultant crystal by filtration. The crystal was further washed with methanol and was collected by filtration. A 10% hydrogen chloride-methanol solution was added to the collected crystal, and the solution was concentrated. The resultant crystal was washed with a mixed solution composed of ether and ethanol to give 11.5 g of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluoroaniline | 12 g | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C17H15FN2O3
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | triphosgene | 12 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-aminothiazole | 4.77 g | NC=1SC=CN1 | C3H4N2S
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | N-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2-fluorophenyl}-N′-(1,3-thiazol-2-yl)urea hydrochloride | 11.5 g | Cl.COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(=O)NC=1SC=CN1)F | InChI=1S/C21H17FN4O4S.ClH/c1-28-18-10-13-16(11-19(18)29-2)23-6-5-17(13)30-12-3-4-15(14(22)9-12)25-20(27)26-21-24-7-8-31-21;/h3-11H,1-2H3,(H2,24,25,26,27);1H
